US06552067B2
Analogous to the procedure described for Example 1A, Step B, 5-[4-(3-chloro-phenyl)-3-oxo-butyl]-pyrrolidin-2-one (1.9 g, 7.15 mmol) was reduced with NaBH4 (135 mg, 3.57 mmol). Purification by medium pressure chromatography eluting with a solvent gradient (1:1 hexanes:EtOAc to EtOAc to 1% MeOH in CH2Cl2 to 4% MeOH in CH2Cl2 to 8% MeOH in CH2Cl2) provided 5-[4-(3-chloro-phenyl)-3-hydroxy-butyl]-pyrrolidin-2-one (1.53 g). 1H NMR (CDCl3) δ7.22 (m, 3H), 7.07 (m, 1H), 6.51 (d, 1H), 3.82 (m, 1H), 3.66 (m, 1H), 2.77 (m, 1H), 2.66 (m, 1H), 2.33-2.19 (m, 3H), 2.04 (d, 1H), 1.74-1.45 (m, 5H); MS 268.2 (M+1).

reactant | 5-[4-(3-chloro-phenyl)-3-oxo-butyl]-pyrrolidin-2-one | 7.15 mmol, 1.9 g | ClC=1C=C(C=CC1)CC(CCC1CCC(N1)=O)=O | C14H16ClNO2
reactant | NaBH4 | 3.57 mmol, 135 mg | [BH4-].[Na+]
product | 5-[4-(3-chloro-phenyl)-3-hydroxy-butyl]-pyrrolidin-2-one | 1.53 g | ClC=1C=C(C=CC1)CC(CCC1CCC(N1)=O)O | C14H18ClNO2
